.SUBCKT irlml9303pbf 1 2 3
* SPICE3 MODEL WITH THERMAL RC NETWORK
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Aug 23, 10
* MODEL FORMAT: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
M1 9 7 8 8 MM L=100u W=100u
.MODEL MM PMOS LEVEL=1 IS=1e-32
+VTO=-2.38433 LAMBDA=0.00825789 KP=3.4507
+CGSO=1.37975e-06 CGDO=1.07654e-07
RS 8 3 0.068914
D1 1 3 MD
.MODEL MD D IS=3.38938e-10 RS=0.00771321 N=1.41394 BV=30
+IBV=0.00025 EG=1 XTI=2.90554 TT=1e-07
+CJO=9.22636e-11 VJ=0.5 M=0.490425 FC=0.1
RDS 3 1 5e+07
RD 9 1 0.0001
RG 2 7 20.5241
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D IS=1e-32 N=50
+CJO=1.1935e-10 VJ=0.5 M=0.530391 FC=1e-08
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D IS=1e-10 N=0.4 RS=3e-06
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 1.8489e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D IS=1e-10 N=0.4
.ENDS irlml9303pbf
*SPICE Thermal Model Subcircuit
.SUBCKT irlml9303pbft 5 1

R_RTHERM1         5 4  4.663e+00
R_RTHERM2         4 3  4.216e+01
R_RTHERM3         3 2  3.481e+01
R_RTHERM4         2 1  1.832e+01
C_CTHERM1         5 1  3.16462e-05
C_CTHERM2         4 1  0.001524371
C_CTHERM3         3 1  0.011248502
C_CTHERM4         2 1  0.000331943

.ENDS irlml9303pbft

